* C:\Users\janrh\OneDrive - University of the Philippines\Acads\3RD YEAR (22-23)\2ND SEM\CoE 197\Mini project\Final\circuits\bjt_opamp.asc
Q1 N005 VIN N009 0 NPN
Q2 N006 0 N009 0 NPN
R1 VCC N005 13Meg
R2 VCC N006 82
R3 N009 VEE 13k
R4 VCC N003 1.3
R5 N007 VEE 120
R6 VCC N002 120k
R7 N002 VEE 9.1k
R8 VCC N001 130
RLOAD out 0 100
Q3 N007 N005 N003 0 PNP
Q4 N004 N002 N001 0 PNP
Q5 VEE N007 N010 0 PNP
Q6 VCC N004 out 0 NPN
D1 N004 N008 D
D2 N008 N010 D
Q7 VEE N010 out 0 PNP
V1 VCC 0 12
V2 0 VEE 12
VIN VIN 0 SINE(0 10m 100) AC 1
.model D D
.lib C:\Users\janrh\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\janrh\AppData\Local\LTspice\lib\cmp\standard.bjt
.meas gain rms v(out)
.tran 100m
;ac dec 100 1 1Meg
.backanno
.end
